Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
Scheduled Chemotherapy
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ yo male with a history of Hodgkin's Lymphoma who is admitted
for scheduled chemotherapy with IGEV cycle 1. The patient states
since his last admission for ___ he has been feeling well. He 
was
seen in clinic and started on magnesium but denies any other
medication changes. He denies any fevers, shortness of breath,
nausea, diarrhea, dysuria, or rashes.
 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
Stage III/IV classical Hodgkin's lymphoma, mixed cellularity 
type
- ___ Developed reflux. Started on PPI without good effect. 
- ___ Developed post prandial abdominal pain. 
- ___ Developed unintentional weight loss, dark urine, pale
stools, and jaundice. 
- ___ Presented to ___. Labs notable for Tbili 6.0. RUQ
US showed a solid mass head of the pancreas causing obstruction
of the common duct, dilated intrahepatic ducts, and distended
___ and ___ gallbladder. Echogenic foci in 
the
liver, although possibly representing hemangiomata, given the
solid pancreatic mass highly suspicious for tumor, metastatic
disease must be strongly considered. EUS and ERCP showed a 4 cm
pancreatic head mass. Cytology positive for "epithelioid
malignancy."
- ___ CTA pancreas showed a 6.1 cm mass is identified in
the pancreatic head.  Multiple enlarged retroperitoneal lymph
nodes are suspicious for nodal metastasis. Tumor comes in 
contact
celiac axis, common hepatic artery, main portal vein, SMV, and
encases GDA. Numerous hypodense liver lesions, some of which may
reflect cysts or hemangioma. Few of them are more suspicious for
potential metastasis.  Small amount of ascites.
- ___ - CT guided retroperitoneal node biopsy confirmed
diagnosis of classical Hodgkin lymphoma, mixed cellularity type.
- ___ - PET/CT reveals ___ adenopathy with at least
Stage III disease along with diffuse marrow activation raising
possibility of disease involvement
- ___ - C1D1 ABVD
- ___ - C2D1 ABVD
- ___ - admission for febrile neutropenia, no clear
infectious source identified, recovered uneventfully after
empiric IV antibiotics; incidentally found to have PE, started 
on
lovenox therapy. received C2D15 ___
- ___ - admission for L shoulder pain in setting of LBBB
on EKG without prior for comparison; cardiac ___ negative.
pain attributed to ___ etiology; also found elevated
transaminases with subsequent positive HCV serology and viral
load
- ___ - C3D1 ABVD
- ___ - C4D1 ABVD
- ___ - PET/CT Interval improvement in size and FDG 
avidity
of mediastinal and retroperitoneal lymphadenopathy, however with
significant persistent residual ___ disease. also with
infectious vs inflammatory pulmonary opacity and cervical node,
clinically with mild viral respiratory symptoms. treated with
azithromycin and prednisone course, decision made to stop
bleomycin and start brentuximab + AVD
- ___ - C5D1 AVD (bleo omitted as above)
- ___- - C5D15 AVD, initiation of brentuximab 1.2mg/kg every 
2
weeks
- ___ - C6D1 AVD + brentuximab
- ___ - C6D15 AVD + brentuximab
- ___ - Admitted for fever and neutropenia.  Noted hypoxia
with PE and GGO's.  Restarted Lovenox.  Treated for PCP and 
___.
Continues on Bactrim.
- ___ - C1 ___, received Rituxan on ___
- ___ - received neulasta
PAST MEDICAL HISTORY:
Hep C
hx of PE ___
 
Social History:
___
Family History:
- None reported.
 
Physical Exam:
General:  NAD
VITAL SIGNS: T 98.1 BP 106/66 HR 100 RR 18 O2 99%RA
HEENT:  MMM, no OP lesions
CV:  RR, NL S1S2
PULM:  CTAB
ABD:  Soft, NTND, no masses or hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis
SKIN:  No rashes or skin breakdown
NEURO: Alert and oriented, no focal deficits.
 
Pertinent Results:
___ 12:00AM BLOOD ___ 
___ Plt ___
___ 10:30AM BLOOD ___ ___
___ 12:00AM BLOOD ___ 
___
___ 12:00AM BLOOD ___
___ 12:00AM BLOOD ___
 
Brief Hospital Course:
___ yo male with a history of Hodgkin's Lymphoma who was admitted 
for scheduled chemotherapy with IGEV cycle 1.

Hodgkin's Lymphoma
- Received Cycle 1 IGEV: Ifosfamide, Gemcitabine, Navelbine, 
Mesna, and
Prednisone per protocol. He also received IV fluids and 
antiemetics per protocol. He tolerated the chemotherapy well. 
His home allopurinol was continued. He will get neulasta 
tomorrow in the outpatient clinic. He will follow up with his 
primary oncologist as an outpatient.

Pneumonitis/? PCP ___ home at___ was continued. His home prednisone was 
held while inpatient due to getting steroids with chemotherapy 
and it was resumed on discharge.

Herpes Labials
- His home valcyclovir was switched to acyclovir while inpatient 
and valcyclovir was resumed upon discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atovaquone Suspension 1500 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. FoLIC Acid 1 mg PO DAILY 
4. LORazepam ___ mg PO Q8H:PRN nausea anxiety insomnia 
5. Ondansetron 8 mg PO Q8H:PRN nausea 
6. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
7. OxyCODONE SR (OxyconTIN) 20 mg PO Q12H 
8. Pantoprazole 40 mg PO Q12H 
9. PredniSONE 10 mg PO DAILY 
10. Promethazine 25 mg PO Q6H:PRN nausea 
11. Senna 8.6 mg PO BID 
12. ValACYclovir 500 mg PO Q12H 
13. Metoprolol Succinate XL 50 mg PO DAILY 
14. Allopurinol ___ mg PO DAILY 
15. Dronabinol 2.5 mg PO BID 
16. Magnesium Oxide 400 mg PO BID 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Atovaquone Suspension 1500 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Dronabinol 2.5 mg PO BID 
5. FoLIC Acid 1 mg PO DAILY 
6. LORazepam ___ mg PO Q8H:PRN nausea anxiety insomnia 
7. Magnesium Oxide 400 mg PO BID 
8. Metoprolol Succinate XL 50 mg PO DAILY 
9. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
10. OxyCODONE SR (OxyconTIN) 20 mg PO Q12H 
11. Pantoprazole 40 mg PO Q12H 
12. Senna 8.6 mg PO BID 
13. Promethazine 25 mg PO Q6H:PRN nausea 
14. ValACYclovir 500 mg PO Q12H 
15. PredniSONE 10 mg PO DAILY 
16. Ondansetron 8 mg PO Q8H:PRN nausea 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hodgkin's Lymphoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for scheduled chemotherapy which you tolerated 
well.
 
Followup Instructions:
___